US06586446B1
To a solution of ethyl 4-oxocyclohexanecarboxylate (1.9 g, 11 mmol) in 1,2-dichloroethane (113 mL) at 23° C. was added dibenzylamine (3.4 g, 3.3 mL, 17 mmol) in one portion. After 10 min, sodium triacetoxyborohydride (4.81 g, 22.7 mmol) was added, and the resulting cloudy suspension was stirred for 48 hrs. The suspension was poured into 1N aqueous hydrogen chloride (100 mL), the resulting mixture was basified to pH 9.0-10.0 with 12.5 M aqueous sodium hydroxide. The basic layer was extracted with ethyl acetate (3×50 mL), and the combined organic layers were washed with saturated aqueous sodium chloride (70 mL), dried over sodium sulfate, and concentrated in vacuo. The resulting residue was purified by flash chromatography (5-10% ethyl acetate in hexanes) to yield ethyl 4-(N,N-dibenzylamino)cyclohexanecarboxylate (3.4 g, 84%) as a clear oil. MS (ESI) 352 (M+H).

reactant | ethyl 4-oxocyclohexanecarboxylate | 11 mmol, 1.9 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | dibenzylamine | 17 mmol, 3.3 mL, 3.4 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | sodium triacetoxyborohydride | 22.7 mmol, 4.81 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen chloride | 1N, 100 mL | Cl | ClH
reactant | sodium hydroxide | 12.5 M | [OH-].[Na+]
solvent | 1,2-dichloroethane | 113 mL | ClCCCl | C2H4Cl2
product | ethyl 4-(N,N-dibenzylamino)cyclohexanecarboxylate | 3.4 g, 84% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C1CCC(CC1)C(=O)OCC | C23H29NO2
